US06057270
2chlor-3-[1-(3-chlor-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-cyan-5-pyrazolyl]-2-methyl-propionic acid ethyl ester
1.6 g (15.5 mmol) tert-butyl nitrite, 20 ml ethyl methacrylate and 1.52 g copper-ll-chloride is added to 20 ml acetonitrile and 2.62 g (10 mmol) 5-amino-1-(3-chlor-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-pyrazol-carbonitrile is added in 3 portions. The mixture is stirred at room temperature for 20 hours, added to 50 ml 2N hydrochloric acid, extracted 3 times with dichloromethane, dried over magnesium sulphate and concentrated. Purification is by column chromatography using a hexane/ethyl acetate mixture.

reactant | tert-butyl nitrite | 15.5 mmol, 1.6 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | ethyl methacrylate | 20 ml | C(C(=C)C)(=O)OCC | C6H10O2
reactant | 5-amino-1-(3-chlor-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-pyrazol-carbonitrile | 10 mmol, 2.62 g | NC1=C(C=NN1C1=NN2C(CCCC2)=C1Cl)C#N | C11H11ClN6
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2chlor-3-[1-(3-chlor-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-cyan-5-pyrazolyl]-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=NN1C1=NN2C(CCCC2)=C1Cl)C#N)(C)Cl)=O | C17H19Cl2N5O2
